US08076486B2
N-(2-fluoro-4-iodophenyl)-4-[5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl]pyridin-3-amine
To a solution of TMSdiazomethane (2 M, 90 μL, 0.18 mmol) in ether (2 mL) at 0° C., was added butyl lithium (2.5 M, 72 μL, 0.18 mmol) dropwise. The mixture was stirred for 20 min at 0° C. 3-[(2-fluoro-4-iodophenyl)amino]isonicotinonitrile (50 mg, 0.15 mmol) was then added into the solution. The reaction was allowed to warm to room temperature and proceed for three days. The mixture was diluted with ether and washed with saturated ammonium chloride solution, water, and dried over solid Na2SO4. The organic phase was concentrated, and the resulting residue was applied to chromatography in silica gel to give the desired product in 40% yield (27 mg). LC/MS [Method A: rt: 0.40 min; m/z: 454 (M+1)].

reactant | TMSdiazomethane | 0.18 mmol, 2 M, 90 μL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | butyl lithium | 0.18 mmol, 2.5 M, 72 μL | C(CCC)[Li]
reactant | 3-[(2-fluoro-4-iodophenyl)amino]isonicotinonitrile | 0.15 mmol, 50 mg | FC1=C(C=CC(=C1)I)NC1=C(C#N)C=CN=C1 | C12H7FIN3
solvent | ether | 2 mL | CCOCC | C4H10O
product | N-(2-fluoro-4-iodophenyl)-4-[5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl]pyridin-3-amine | 40% yield | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1N=NNC1[Si](C)(C)C | C16H17FIN5Si
